US07750153B2
5′-O-Acetyl-2′,3′-dideoxy-2′,3′-didehydroinosine (100 gm) is added to 25% monomethyl amine (360 ml) at 25-35° C. and stirred for 4-5 hours at 25-35° C. The mass is filtered on a celite bed, washed with methanol (50 ml) and the solvent is distilled off completely under reduced pressure at below 70° C. Methanol (25 ml) is added to the filtrate, the solvent is distilled off completely, and methanol (25 ml) is again added and co-distilled. To the mass, acetone (25 ml) is added, co-distilled, again co-distilled with 25 ml of acetone at below 70° C. and acetone (400 ml) is added. The contents are cooled to 25-35° C., stirred for 2 hours to 2 hours 30 minutes at 25-35° C. Then the reaction mass is cooled to 0-10° C. and stirred for 1 hour to 1 hour 30 minutes. material is filtered, washed with acetone (80 ml) and dried at 55-65° C. to give 62.5 gm of 2′,3′-dideoxy-2′,3′-didehydroinosine (HPLC Purity: 98.14%).

reactant | 5′-O-Acetyl-2′,3′-dideoxy-2′,3′-didehydroinosine | 100 gm | C(C)(=O)OC[C@@H]1C=C[C@@H](O1)N1C=NC=2C(O)=NC=NC12 | C12H12N4O4
solvent | monomethyl amine | 360 ml | CN | CH5N
product | 2′,3′-dideoxy-2′,3′-didehydroinosine | 62.5 gm | [C@@H]1(C=C[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H10N4O3
